US08710260B2
Cuprous chloride (2.97 g, 30 mmol) is added to a goose neck additional funnel fitted to a 500 mL four neck round bottom flask with a rubber septum, thermometer, and magnetic stir bar. The flask is attached to a vacuum line and flame dried under vacuum. It is then allowed to cool to ambient temperature under argon. Potassium t-butoxide (42 mmol, 1M THF solution) is then added via syringe. The THF is carefully removed under vacuum to afford potassium t-butoxide as a white solid, and argon is reintroduced. Anhydrous dimethoxyethane (180 mL) is added via syringe, followed by the cuprous chloride (with stirring) in one portion, giving a dark mixture. Stirring is continued at ambient temperature for 45 min. Anhydrous pyridine (12 mL) is then added to the dark stirred mixture followed by 1,3-dinitrobenzene (2.02 g, 12 mmol) in 30 mL of anhydrous dimethoxyethane. After cooling the reaction to an internal temperature of −20° C., bromoacetonitrile (1.44 g, 12 mmol) in 30 mL of anhydrous dimethoxyethane is added via cannula with stirring over the course of 15 min. During the addition, the internal temperature is maintained at −20° C. and the reaction is stirred at this temperature for another 2 h and warms to ambient temperature for 30 min and then quenched with the addition of 60 mL of 3M HCl solution. The reaction mixture is then added to 600 mL of water and extracted with eight 50 mL portions of diethyl ether. The combined ether extracts are dried over sodium sulfate, filtered and evaporated to afford a dark oil of 2,6-dinitrophenyl acetonitrile whose 1H NMR (CDCl3) is in concert with the literature spectrum.

reactant | pyridine | 12 mL | N1=CC=CC=C1 | C5H5N
reactant | 1,3-dinitrobenzene | 12 mmol, 2.02 g | [N+](=O)([O-])C1=CC(=CC=C1)[N+](=O)[O-] | C6H4N2O4
reactant | bromoacetonitrile | 12 mmol, 1.44 g | BrCC#N | C2H2BrN
solvent | dimethoxyethane | 30 mL | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 30 mL | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 180 mL | C(OC)COC | C4H10O2
product | 2,6-dinitrophenyl acetonitrile | [N+](=O)([O-])C1=C(C(=CC=C1)[N+](=O)[O-])CC#N | C8H5N3O4
